US04945099
6-(4-Acetyl-5-hydroxy-2-allylphenoxy)hexanoyl chloride
A mixture of 3.06 g of 6-(4-acetyl-5-hydroxy-2-allylphenoxy)hexanoic acid, 1.74 ml of oxalyl chloride, 100 ml of methylene chloride, and ten drops of dimethylformamide was mixed at 0° C. and allowed to warm to room temperature. After stirring for 4 hours, the solvents were removed by evaporation to provide the desired title product. NMR.

reactant | 6-(4-acetyl-5-hydroxy-2-allylphenoxy)hexanoic acid | 3.06 g | C(C)(=O)C1=CC(=C(OCCCCCC(=O)O)C=C1O)CC=C | C17H22O5
reactant | oxalyl chloride | 1.74 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | ten drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Acetyl-5-hydroxy-2-allylphenoxy)hexanoyl chloride | C(C)(=O)C1=CC(=C(OCCCCCC(=O)Cl)C=C1O)CC=C | C17H21ClO4
